US09034900B2
Step 3: 3-(cyclopropylmethoxy)-2-iodo-6-methylsulfonylpyridine
A mixture of 2-iodo-6-methylsulfonylpyridin-3-ol (500.0 mg, 1.67 mmol), bromomethylcyclopropane (248.4 mg, 1.84 mmol) and K2CO3 (461.3 mg, 33.4 mmol) in ACN (15 mL) was stirred at 80° C. for 4 hrs. Water (30 mL) was added and the mixture was extracted with EtOAc (30 mL×3). The combined organic layers were washed with brine (30 mL), dried over Na2SO4, filtered and concentrated to give the title compound (500.0 mg, 84.8%). 1H NMR (CDCl3, 400 MHz) δ 7.96 (d, J=8.8 Hz, 1H), 7.52 (d, J=8.4 Hz, 1H), 4.09 (d, J=6.8 Hz, 2H), 3.22 (s, 3H), 1.36-1.22 (m, 1H), 0.69-0.57 (m, 2H), 0.43-0.37 (m, 2H). LCMS: 354.0 (M+1)+

reactant | 2-iodo-6-methylsulfonylpyridin-3-ol | 1.67 mmol, 500.0 mg | IC1=NC(=CC=C1O)S(=O)(=O)C | C6H6INO3S
reactant | bromomethylcyclopropane | 1.84 mmol, 248.4 mg | BrCC1CC1 | C4H7Br
reactant | K2CO3 | 33.4 mmol, 461.3 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | 30 mL | O | H2O
solvent | ACN | 15 mL | C(C)#N | C2H3N
product | 3-(cyclopropylmethoxy)-2-iodo-6-methylsulfonylpyridine | 500.0 mg, 84.8% | C1(CC1)COC=1C(=NC(=CC1)S(=O)(=O)C)I | C10H12INO3S
